US04405552
EXAMPLE 39: 1-(2,6-DIFLUOROBENZOYL)-3-(6-METHYL-5-PHENYL-2-PYRIDYL)UREA
6-Methyl-5-phenyl-2-pyridylamine (500 mg) and 2,6-difluorobenzoyl isocyanate (650 mg) were reacted in 25 ml ethyl acetate. A precipitate formed which was filtered, dried, and identified as the desired product by NMR, m.p. 206°-208° C.

reactant | 6-Methyl-5-phenyl-2-pyridylamine | 500 mg | CC1=C(C=CC(=N1)N)C1=CC=CC=C1 | C12H12N2
reactant | 2,6-difluorobenzoyl isocyanate | 650 mg | FC1=C(C(=O)N=C=O)C(=CC=C1)F | C8H3F2NO2
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
product | 1-(2,6-DIFLUOROBENZOYL)-3-(6-METHYL-5-PHENYL-2-PYRIDYL)UREA | FC1=C(C(=O)NC(=O)NC2=NC(=C(C=C2)C2=CC=CC=C2)C)C(=CC=C1)F | C20H15F2N3O2
